US08106232B2
Carbonic acid 4-nitro-phenyl ester (R)-1-phenyl-ethyl ester
A mixture of (R)-1-phenyl-ethanol (60.6 g, 0.496 mol), pyridine (42.5 mL, 0.526 mol) and 2-methyl-tetrahydrofuran (600 mL) was cooled to 0° C. and p-nitrophenyl chloroformate (100 g, 0.496 mol) was added over 15 min keeping the internal temperature below 5° C. The reaction mixture was warmed to room temperature and stirred for 2 h. To the reaction mixture was added 1.0 M HCl in water (300 mL). Layers were separated. The organic layer was washed with 1N HCl (300 mL) and brine (300 mL), filtered, concentrated to dryness by rotary evaporation, and dried under vacuum to give the title compound (140 g) as a clear yellow oil.

reactant | (R)-1-phenyl-ethanol | 0.496 mol, 60.6 g | C1(=CC=CC=C1)[C@@H](C)O | C8H10O
reactant | pyridine | 0.526 mol, 42.5 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-methyl-tetrahydrofuran | 600 mL | CC1OCCC1 | C5H10O
reactant | p-nitrophenyl chloroformate | 0.496 mol, 100 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | HCl | 1.0 M | Cl | ClH
solvent | water | 300 mL | O | H2O
product | Carbonic acid 4-nitro-phenyl ester (R)-1-phenyl-ethyl ester | 140 g | C1(=CC=CC=C1)[C@@H](C)OC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C15H13NO5
